US05721245
A solution of 2.90 g of 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 30 ml of dimethylformamide and 23 ml of 33% aqueous ammonia was heated to 140° C. for 7 hours. The mixture was extracted with ethyl acetate and the combined organic extracts were washed with water, dried over anhydrous sodium sulfate and evaporated to dryness. Crystallization of the residue from ethyl acetate gave 1.87 g of 3-[6,7,8,9-tetrahydro-8-(hydroxymethyl)pyrido-[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione in the form of a red solid of melting point 262°-263° C.

reactant | 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 2.90 g | C(C)(=O)OCC1CC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)CC1 | C28H24N2O5
reactant | ammonia | 23 ml | N | H3N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-[6,7,8,9-tetrahydro-8-(hydroxymethyl)pyrido-[1,2-a]indol-10-yl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 1.87 g | OCC1CC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)CC1 | C26H23N3O3
